US06964979B2
5-Bromo-2-methylphenylhydrazine Hydrochloride
To a suspension of 5-bromo-2-methylaniline (4.80 g, 25.8 mmol) in concentrated HCl (16 mL) was added dropwise a solution of sodium nitrite (1.96 g, 28.4 mmol) in water (10 mL) over 30 minutes at 0° C. To the mixture was added dropwise a solution of SnCl2.2H2O (17.46 g, 77.4 mmol) in concentrated HCl (15 mL) over 50 minutes. After stirring for 1 hour at 0° C., the reaction mixture was basified with 50% NaOH (30 mL). The mixture was further diluted with water (20 mL) and treated with another 50% NaOH (10 mL) and then crushed ice (100 g). The reaction mixture was extracted with ether (3×100 mL) and the combined organic phases were washed with brine, dried over Na2SO4, and filtered. The filtrate was acidified by adding an anhydrous solution of HCl in ether (1 N in ether, 31 mL, 31 mmol). The precipitate was collected and dried under reduced pressure to give 4.57 g (75%) of title compound as a white amorphous solid. 1H NMR (DMSO): 300 MHz δ 10.31 (bs, 3H), 8.11 (bs, 1H), 7.12 (s, 1H), 7.06 (m, 2H), 2.14 (s, 3H).

reactant | 5-bromo-2-methylaniline | 25.8 mmol, 4.80 g | BrC=1C=CC(=C(N)C1)C | C7H8BrN
reactant | sodium nitrite | 28.4 mmol, 1.96 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 77.4 mmol, 17.46 g | O.O.Cl[Sn]Cl
reactant | NaOH | 30 mL | [OH-].[Na+]
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | ether | 31 mmol, 1 N, 31 mL | CCOCC | C4H10O
solvent | HCl | 16 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | HCl | 15 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 5-Bromo-2-methylphenylhydrazine Hydrochloride | 4.57 g, 75% | Cl.BrC=1C=CC(=C(C1)NN)C | InChI=1S/C7H9BrN2.ClH/c1-5-2-3-6(8)4-7(5)10-9;/h2-4,10H,9H2,1H3;1H
